US07714009B2
7-(Hydroxymethyl)-N-mesityl-1,3-benzothiazol-2-amine
To 0.25 g (0.83 mmol) of 1-(3-hydroxymethylphenyl)-3-mesitylthiourea in 5 mL of glacial acetic acid was added 47 μL (0.91 mmol) of bromine. The reaction was stirred for 5 min and concentrated in vacuo to give the title compound and its regioisomer as their O-acetates. The mixture was stirred in methanol over potassium carbonate for 1 h. The mixture was concentrated in vacuo, slurried in dichloromethane and filtered. The filtrate was concentrated and purified by flash chromatography eluting with a 33-66% ethyl acetate/hexanes gradient mixture to give 0.070 g (28%) of the title compound as a white solid.

reactant | 1-(3-hydroxymethylphenyl)-3-mesitylthiourea | 0.83 mmol, 0.25 g | OCC=1C=C(C=CC1)NC(=S)NC1=C(C=C(C=C1C)C)C | C17H20N2OS
reactant | bromine | 0.91 mmol, 47 μL | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 7-(Hydroxymethyl)-N-mesityl-1,3-benzothiazol-2-amine | OCC1=CC=CC=2N=C(SC21)NC2=C(C=C(C=C2C)C)C | C17H18N2OS
